US06951879B2
In analogy to example 19.1, 5-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-yn-1-ol and N-(Methoxyethyl)ethylamine were converted to yield Ethyl-{5-[3-(4-fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-ynyl}-(2-methoxy-ethyl)-amine as light brown oil, MS: 396 (MH+).

reactant | 5-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-yn-1-ol | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)C#CCCCO | C19H15FOS
reactant | N-(Methoxyethyl)ethylamine | COCCNCC | C5H13NO
product | Ethyl-{5-[3-(4-fluoro-phenyl)-benzo[b]thiophen-6-yl]-pent-4-ynyl}-(2-methoxy-ethyl)-amine | C(C)N(CCOC)CCCC#CC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C24H26FNOS
